Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left facial weakness and sensory change
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a past medical history
of anxiety, PTSD, and migraines who presents for evaluation of
left facial symptoms as well as right foot laceration.  
Neurology
consulted for ? facial palsy and facial sensory change.

History starts 2 weeks ago, when she reports having a transient
episode of right eye ptosis.  She states she was told by her
daughter rt that hat her right eyelid was droopy and confirmed
this in the mirror.  There were no other symptoms, it did not
obscure vision, and it resolved spontaneously later in the day. 
No similar episodes or recurrent ptosis before since.

Yesterday, she was out In the evening getting a pedicure At the
___.  She heard a loud thump, followed by people
screaming and running, due to gunshots.  She did not have her
shoes on and she tried to flee with the others, when she stepped
on something with her right foot and had a laceration.  No other
symptoms with this.

This morning, she reports waking up with 1 of her typical
migraines.  She has had these since her teens and there have 
been
no changes in the nature, frequency or severity of her 
headaches.
It consists of a unilateral or bifrontal pressure associated 
with
photophobia and nausea.  Her headache this morning was typical.  

On rare occasions she does awaken with headaches, but they are
much more common during the afternoon.  No features suggestive 
of
high pressure.  

With the headache however, she also noticed a sensation of
"tightness" on her left face.  It felt subjectively swollen to
her.  She got up and walked to the bathroom and felt that her
left face was asymmetric and swollen (her husband corroborated
this).  Later, when touching her face, she first noticed numbess
of her left maxilla.  It felt totally numb, "like novacaine". 
She was unable to feel her touch.  This is the only part of her
fascia touch initially, and it was not until later when she
touched her chin that she relies on the left side it was also
numb.

Concerned, she called her PCPs office and made an appointment. 
She was seen and subsequently referred in for neurologic
evaluation.

In our ED, she received Ibuprofen 600mg PO and Tylenol 1g. 
eurology was subsequently consulted.

Neurologically, she does endorse intermittently waking up with
her left leg feeling numb.  This is been going on and off for
years.  Excluding the prior episode of right ptosis however, she
endorses no transient neurologic symptoms.

Of note, the patient reports that she is under significant 
social
stress.  She lives in a very bad neighborhood and has had to 
send
her children away due to gun violence.  She reports that for
children have been killed in her neighborhood in the past year. 
She has lost family to gun violence.  

On neuro ROS, the pt denies change in headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.  

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath. Denies chest pain or
tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. No recent change in bowel or
bladder habits. No dysuria. Denies arthralgias or myalgias.
Denies rash.  
 

 
Past Medical History:
- Anxiety, Depression, PTSD
- Migraine Headaches (as above)
- Insomnia, Sleep Difficulties
 
Social History:
___
Family History:
- Grandmother with diabetes, MI, Strokes, renal failure (later 
in
life).  Maternal Uncle with ___, also needs from a 
different
with epilepsy.
 
Physical Exam:
Admission Exam:
Vitals: 
97.1, 96,150/93, 18, 100% RA 
General: Awake, cooperative, NAD.  
HEENT: NC/AT, MMM.  No lesions or vesicles visualized in the
oropharynx or left ear
Neck: Supple. No nuchal rigidity  
Pulmonary: Lungs CTA bilaterally   
Cardiac: RRR, nl. S1S2
Abdomen: soft, NT/ND.  
Extremities: WWP.  There is a small clean abrasion on the
anterior aspect of her right heel.  No significant erythema.
Skin: no rashes or lesions noted.  

Neurologic:  
-Mental Status: Alert, oriented. Anxious and speaking rapidly. 
Intermittently tearful.  When asked about social stresses, she
begins crying.  Able to relate history without difficulty.
Attentive to examiner and task. Language is fluent with intact
comprehension. Normal prosody. There were no paraphasic errors. 
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.  
 
-Cranial Nerves:  
 II, III, IV, VI: PERRL 5 to 3mm on right, 4.5to 2.5mm on left. 
Different similar in light and dark.  EOMI without nystagmus.
Normal saccades. VFF to confrontation. Fundoscopic exam revealed
no papilledema, no disc pallor.  V: She reports about 40% of 
normal sensation in principally the left V2 and V3 distribution, 
though it spares the more lateral
aspect of her cheek.  The decreased sensation does split the
midline at the chin.
 VII: There is subtle left nasolabial fold flattening at rest. 
There is clear asymmetry and activation of the left lower face
during spontaneous conversation as well as during exam 
maneuvers.
She has photos on her phone demonstrating a symmetric smile
previously.  Air escapes her left lips with cheek puff.  Eyebrow
elevation and eyelid closure are both symmetrically strong
 VIII: Hearing intact to finger-rub bilaterally.  
 IX, X: Palate elevates symmetrically.  
 XI: ___ strength in trapezii and SCM bilaterally.  
 XII: Tongue protrudes in midline.  

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.   No adventitious movements, such as tremor, noted.
No asterixis noted.  She has full strength in all major muscle
groups in the upper and lower extremities.

-Sensory: Excluding the face as detailed above, no deficits to
light touch, pinprick, proprioception throughout. No extinction
to DSS.  

-DTRs:  
    Bi Tri ___ Pat Ach  
 L  ___    3    2  
 R  ___    2+   2  
 Plantar response was flexor bilaterally.  

-Coordination: No intention tremor.  There is a subtle 
clumsiness
in the left upper extremity.  Finger tapping and pronation
supination with the left hand is is little more clumsy than
expected compared to the right.  I wonder if there is a
suggestion of overshoot with the left hand.  However, there is
otherwise no dysmetria on FNF or HKS bilaterally.  

Exam ___:
emotional when talking about the events in the mall. Alert, 
attentive, language fluent and intact, without dysarthria. ___, 
no RAPD, no red desaturation. VFF. EOMI, no nystagmus or INO. 
Face with subtle nasolabial fold flattening on the L. Was able 
to pry her eyelids and mouth corner open on the L. Hearing 
normal. Taste intact to cranberry juice. V1 intact, V2-3 
decreased to LT and cold on the L, not absent). Tongue midline. 
Shoulder shrug good. No drift. Strength full throughout. Normal 
tone. No dysmetria on FNF or HTS. DTRs symmetrical,
present. Toes down. No sensory level and sensation intact to 
cold and LT throughout. Gait normal.
 
Pertinent Results:
___ 11:00PM URINE  HOURS-RANDOM
___ 11:00PM URINE  UCG-NEGATIVE
___ 11:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:00PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-6.5 
LEUK-MOD
___ 11:00PM URINE  RBC-<1 WBC-24* BACTERIA-FEW YEAST-NONE 
EPI-8
___ 09:30PM   GLUCOSE-107* UREA N-6 CREAT-0.7 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-101 TOTAL CO2-25 ANION GAP-14
___ 09:30PM   estGFR-Using this
___ 09:30PM   ALT(SGPT)-19 AST(SGOT)-18 ALK PHOS-55 TOT 
BILI-0.8
___ 09:30PM   ALBUMIN-4.0
___ 09:30PM   WBC-8.3 RBC-4.12 HGB-12.3 HCT-36.4# MCV-88 
MCH-29.9 MCHC-33.8 RDW-12.3 RDWSD-39.6
___ 09:30PM   NEUTS-67.6 ___ MONOS-6.2 EOS-1.6 
BASOS-0.7 IM ___ AbsNeut-5.63 AbsLymp-1.98 AbsMono-0.52 
AbsEos-0.13 AbsBaso-0.06
___ 09:30PM   PLT COUNT-264#

MRI brain
IMPRESSION:  
  
No evidence for intracranial abnormalities to explain the 
patient's symptoms.  
High-resolution imaging through the cranial nerves, Meckel's 
caves, cavernous 
sinuses, or internal auditory canals has not been performed, but 
no gross 
abnormalities are seen. 

CTA head and neck prelim read:
CT HEAD WITHOUT CONTRAST: 
There is no evidence of no evidence of infarction, hemorrhage, 
edema, or mass. 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches 
appear normal without stenosis, occlusion, or aneurysm 
formation. The dural 
venous sinuses are patent. 
  
CTA NECK: 
The carotid and vertebral arteries and their major branches 
appear normal with 
no evidence of stenosis or occlusion. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a past medical history 
of anxiety, PTSD, and migraines who presents for evaluation of 
left facial symptoms weakness and subjective sensory change of 
the L cheek and lip area. Exam showed mild LMN nVII weakness on 
the L, with intact taste. V2/3 subtly decreased to LT and cold 
on the same L side, i.e. not dissociated. Rest of the exam was 
normal. During the admission there were no signs on exam that 
point to an obvious central demyelinating disorder, though at 
the time of admission and preceding the admission other subtle 
signs and symptoms were present. 

CTA head and neck showed no evidence of infarction, hemorrhage, 
edema, or mass and patent vessels. MRI brain was negative for 
stroke, demyelinating disease, inflammation or mass. 

Etiology thought to be secondary to Bell's palsy. Labs including 
Lyme IgG/IgM Antibody; RPR; ACE; Anaplasma phagocytophilum 
(human granulocytic Ehrlichia agent) IgG/IgM; Blood Smear For 
Parasites were sent. Patient was started on 10 day course of 
steroids taper. Discharged with outpatient follow up. 

In addition, social work provided support to the patient and 
will offer further support through CVPR at ___.

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO QHS 
2. butalbital-acetaminophen-caff 50-325-40 mg oral Q8H:PRN 
3. Citalopram 20 mg PO DAILY 
4. LORazepam 0.5 mg PO BID: PRN anxiety 

 
Discharge Medications:
1.  Bacitracin Ointment 1 Appl TP TID laceration on foot 
RX *bacitracin zinc 500 unit/gram apply to affected area three 
times a day Refills:*0 
2.  PredniSONE 10 mg PO DAILY 
50mg day 6
40mg day 7
30mg day 8
20mg day 9 
Tapered dose - DOWN 
RX *prednisone 10 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0 
3.  PredniSONE 60 mg PO DAILY Duration: 5 Days 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0 
4.  butalbital-acetaminophen-caff 50-325-40 mg oral Q8H:PRN  
5.  Citalopram 20 mg PO DAILY  
6.  LORazepam 0.5 mg PO BID: PRN anxiety  
7.  Mirtazapine 15 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bells palsy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ for symptoms of left facial weakness. 
___ underwent an MRI brain which was normal. We believe the 
etiology of your symptoms is due to Bells palsy, which is a type 
of facial paralysis that results in an inability to control the 
facial muscles on the affected side. Etiology at this point is 
unknown. We sent some infectious studies which are still pending 
at this time. We are treating ___ with a 10 day course of 
steroids. Please take your medications as prescribed. 

Please follow up with neurology as mentioned below. 

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___